US07910595B2
A slurry of 4-[2-(7-Isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-4-nitro-phenylsulfanyl]-phenol (0.7 g, 1.73 mmol) and 10% Pd/C (100 mg) in acetic acid (10 ml) and methanol (10 mL) was placed under a hydrogen balloon atmosphere with stirring for 20 hours at room temperature. The slurry was filtered and the solvent removed under vacuum to provide 4-[4-Amino-2-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-phenylsulfanyl]-phenol as an acetic acid salt

reactant | 4-[2-(7-Isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-4-nitro-phenylsulfanyl]-phenol | 1.73 mmol, 0.7 g | C(C)(C)C=1C=CC2=C(N=CN=C2NC2=C(C=CC(=C2)[N+](=O)[O-])SC2=CC=C(C=C2)O)N1 | C22H19N5O3S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-[4-Amino-2-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-phenylsulfanyl]-phenol | NC1=CC(=C(C=C1)SC1=CC=C(C=C1)O)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C | C22H21N5OS
